US05367081
A toluene solution containing 348 mg (1 mmol) of t-butyl 2-[N-[3-oxo-2-(3-nitrobenzylidene)butanoyl]amino]acetate and 123 mg (1.5 mmol) of 3-aminocrotonitrile was refluxed for 4 hours. The reaction mixture was chromatographed on a silica gel column for purification, whereby 407 mg (98.7%) of t-butyl 2-[N-(5-cyano-1,4-dihydro-2,6-dimethyl-4-(3-nitro-phenyl)pyridine-3-carbonyl)amino]acetate was obtained.

reactant | t-butyl 2-[N-[3-oxo-2-(3-nitrobenzylidene)butanoyl]amino]acetate | 1 mmol, 348 mg | O=C(C(C(=O)NCC(=O)OC(C)(C)C)=CC1=CC(=CC=C1)[N+](=O)[O-])C | C17H20N2O6
reactant | 3-aminocrotonitrile | 1.5 mmol, 123 mg | C/C(=C\C#N)/N | C4H6N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | t-butyl 2-[N-(5-cyano-1,4-dihydro-2,6-dimethyl-4-(3-nitro-phenyl)pyridine-3-carbonyl)amino]acetate | 407 mg, 98.7% | C(#N)C=1C(C(=C(NC1C)C)C(=O)NCC(=O)OC(C)(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C21H24N4O5
